US04409214
To a solution of diketene (1.26 g) in carbon tetrachloride (12 ml) was added a solution of bromine (2.40 g) in carbon tetrachloride (3 ml) at -30° to -25° C., and the mixture was stirred at the same temperature for half an hour to prepare a solution of 4-bromoacetoacetyl bromide. This solution was added dropwise to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (6.43 g) and trimethylsilylacetamide (7.82 g) in ethyl acetate (129 ml) at -30° C. with stirring, and the stirring was continued at -30° to -10° C. for 2 hours. To the reaction mixture were added water at -20° C. and ethyl acetate, followed by separating out the organic layer, which was washed with water, an aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, dried over anhydrous magnesium sulfate and then evaporated. The residue obtained was dissolved in a mixture of ethanol (100 ml) and tetrahydrofuran (100 ml), and to this solution was added thiourea (3.42 g), followed by stirring at ambient temperature for an hour. After evaporation of the reaction mixture, to the residue were added water and ethyl acetate, and then adjusted to pH 7 with sodium bicarbonate. The separated ethyl acetate layer was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated under reduced pressure to give benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (6.89 g).

reactant | diketene | 1.26 g | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 2.40 g | BrBr | Br2
reactant | 4-bromoacetoacetyl bromide | BrCC(CC(=O)Br)=O | C4H4Br2O2
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 6.43 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 7.82 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | thiourea | 3.42 g | NC(=S)N | CH4N2S
solvent | carbon tetrachloride | 12 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | 129 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 6.89 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N4O4S2
